US07101873B2
Synthesis of ethyl(4-methyl)benzoylacetate
The title compound was prepared from ethyl(4-methylthiobenzoyl)acetate (16.447 g, 69 mmol) (obtained in preparation 3) and methylthiopseudourea.H2SO4 (10.56 g, 38 mmol) according to the procedure described in preparation 4, (1.82 g, 11.5%, mp 266–267° C.). 1H-NMR (DMSO-d6): δ 2.53 (s, 3H), 6.48 (s, 1H), 7.37–7.39 (d, 2H), 7.79–7.81 (d, 2H), 7.92 (bs, 2H). MS m/z: 235 (M+). Preparation 7 Synthesis of 6-(4-methylphenyl)-2H-3,4-dihydro-1,3-oxazin-2,4-dione

reactant | ethyl(4-methylthiobenzoyl)acetate | 69 mmol, 16.447 g | C(C)OC(CC(C1=CC=C(C=C1)C)=S)=O | C12H14O2S
reactant | methylthiopseudourea | CNC(S)=N | C2H6N2S
reactant | H2SO4 | 38 mmol, 10.56 g | OS(=O)(=O)O | H2O4S
product | ethyl(4-methyl)benzoylacetate | C(C)OC(CC(C1=CC=C(C=C1)C)=O)=O | C12H14O3
